US07851469B2
a) 3-Phenyl-5-hydroxy-5-(trifluoromethyl)isoxazoline
Prepared according to J. Org. Chem., 1995, 60, 3907. A solution of benzoyltrifluoroacetone (21 g, 97 mmol) was added dropwise over 1 h, at 20-30° C., to a solution of hydroxylamine HCl (6.82 g, 98 mmol) containing sodium hydroxide (2 N, 51 mL, 102 mmol) and the resulting mixture heated under reflux for 45 min. After cooling to room temperature, the mixture was poured into ice-water (500 mL), the precipitate was filtered off, washed with water and dried under vacuum to afford the title compound (20.51 g, 91%) which was obtained as a white solid. MS: m/e=230.2 [M−H]−.

reactant | benzoyltrifluoroacetone | 97 mmol, 21 g | C(C1=CC=CC=C1)(=O)CC(=O)C(F)(F)F | C10H7F3O2
reactant | hydroxylamine HCl | 98 mmol, 6.82 g | Cl.NO
reactant | sodium hydroxide | 102 mmol, 2 N, 51 mL | [OH-].[Na+]
product | 3-Phenyl-5-hydroxy-5-(trifluoromethyl)isoxazoline | 20.51 g, 91% | C1(=CC=CC=C1)C1=NOC(C1)(C(F)(F)F)O | C10H8F3NO2
